US06544985B2
(RS)-[2′-Fluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester
The title compound was prepared from [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester (Example J5) (200 mg, 0.5 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K5) (220 mg, 0.55 mmol) according to the general procedure M. Obtained as a yellow oil(100 mg).

reactant | [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | 0.5 mmol, 200 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C19H20F4N2O3
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 0.55 mmol, 220 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[2′-Fluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C36H37F4N5O7
